US05597823
3-Amino-2-carbomethoxy-7-cyano-benzthiophene
2-chloro-1,3-dicyanobenzene (972 mg, 6.0 mmol) was treated with 1 eq of methyl thioglycolate and 1 eq sodium carbonate in methanol as described in Example 41A to give the title compound in 65% yield. 1H NMR (300 MHz, D6-DMSO d 3.83 (s, 3H), 7.38 (bs, 2H), 7.62 (t, J=8 Hz, 1H), 8.10 (d, J=8 Hz, 1H), 8.50 (d, J=8 Hz, 1H). MS (DCI/NH3) m/e 250 (M+NH4)+.

reactant | 2-chloro-1,3-dicyanobenzene | 6.0 mmol, 972 mg | ClC1=C(C=CC=C1C#N)C#N | C8H3ClN2
reactant | methyl thioglycolate | 1 eq | C(CS)(=O)OC | C3H6O2S
reactant | sodium carbonate | 1 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | CO | CH4O
product | 3-Amino-2-carbomethoxy-7-cyano-benzthiophene | 65% yield | NC1=C(SC2=C1C=CC=C2C#N)C(=O)OC | C11H8N2O2S
